US05371099
13.8 g (0.1 mol) of 4-nitroaniline were suspended in 20 ml of dry xylene and 14,22 g (0.1 mol) of 2,2,6-trimethyl-4H-1,3-dioxin-4-one were added. The reaction mixture was heated in an oil-bath at 150° C. for 30 minutes while the acetone formed in the reaction was removed by distillation. The reaction mixture was cooled to room temperature, filtered and the residue was washed thoroughly with ethyl acetate. The filtrate was evaporated to obtain 11.65 g (52%) of N-(4-nitrophenyl)-3-oxobutanamide as a white crystalline solid melting at 119°-21° C. (from ethyl acetate-petroleum ether (40°-60° C.)) (lit.* melting at 120°-122° C.).

reactant | 4-nitroaniline | 0.1 mol, 13.8 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 2,2,6-trimethyl-4H-1,3-dioxin-4-one | 0.1 mol, 14,22 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | acetone | CC(=O)C | C3H6O
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-nitrophenyl)-3-oxobutanamide | 11.65 g, 52% | [N+](=O)([O-])C1=CC=C(C=C1)NC(CC(C)=O)=O | C10H10N2O4
